US08981085B2
A solution of crude (R)-tert-butyl 1-(5-bromo-3-(5-methylpyrazine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (75 mg, 0.14 mmol) in DCM (3 mL) was treated with TFA (1 mL) at room temperature. After 1 hour, the mixture was concentrated in vacuo. The resulting residue was dissolved in a minimal amount of DCM and added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylpyrazine-2-carboxamide hydrochloride (40 mg, 56% yield). 1H NMR (400 MHz, D2O) δ 8.47 (s, 1H), 8.30 (s, 1H), 8.08 (s, 1H), 7.56 (s, 1H), 3.61-3.59 (m, 1H), 3.51-3.46 (m, 1H), 3.42-3.36 (m, 1H), 3.31-3.30 (m, 1H), 2.87-2.84 (m, 1H), 2.40 (s, 3H), 2.16-2.13 (m, 1H), 1.90-1.87 (m, 1H), 1.74-1.71 (m, 1H), 1.49-1.46 (m, 1H); LCMS (APCI+) m/z 430, 432 (M+H)+.

reactant | (R)-tert-butyl 1-(5-bromo-3-(5-methylpyrazine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.14 mmol, 75 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NC=C(N=C2)C)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C23H28BrN7O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylpyrazine-2-carboxamide hydrochloride | 40 mg, 56% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)C2=NC=C(N=C2)C | InChI=1S/C18H20BrN7O.ClH/c1-10-5-22-14(8-21-10)18(27)25-13-7-24-17-15(13)16(12(19)6-23-17)26-4-2-3-11(20)9-26;/h5-8,11H,2-4,9,20H2,1H3,(H,23,24)(H,25,27);1H/t11-;/m1./s1
